US07919508B2
Scheme B, Step B2 N-{3-[4-((1R,3S)-1-Aminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide
Stir and heat at 70° C. a solution of 4-chloro-N-{3-[4-(1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methylpropyl}-benzamide in CH3OH/THF (10 mL of 1:1 solution) and of 15% NaOH solution (2 mL) for 4 hours. Concentrate the reaction mixture, and extract three times with EtOAc (2 mL). Wash the combined organic phase sequentially with H2O (2 mL), brine (2 mL), and then dry over MgSO4. Concentrate and purify the crude product on a 2 g SCX column.

reactant | 4-chloro-N-{3-[4-(1-formylaminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methylpropyl}-benzamide | ClC1=CC=C(C(=O)NC(CCN2CCC(CC2)C2OC(C3=CC=C(C(=C3C2)OC)C)CNC=O)C)C=C1 | C29H38ClN3O4
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | CH3OH THF | 10 mL | CO.C1CCOC1
product | N-{3-[4-((1R,3S)-1-Aminomethyl-5-methoxy-6-methyl-isochroman-3-yl)-piperidin-1-yl]-1-methyl-propyl}-4-chloro-benzamide | NC[C@@H]1O[C@@H](CC2=C(C(=CC=C12)C)OC)C1CCN(CC1)CCC(C)NC(C1=CC=C(C=C1)Cl)=O | C28H38ClN3O3
